US08492376B2
trans-1-{8-Chloro-1-[4-(3-fluoro-pyridin-2-yl)-cyclohexyl]-4H,6H-2,3,5,10b-tetraaza-benzo[e]azulen-5-yl}-2-hydroxy-ethanone
A solution of glycolic acid (11.5 mg, 0.151 mmol) and HATU (57.3 mg, 0.151 mmol) in N,N-dimethylformamide (1.0 ml) was stirred at room temperature for 5 minutes. trans-8-Chloro-1-[4-(3-fluoro-pyridin-2-yl)-cyclohexyl]-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzo[e]azulene (50.0 mg, 0.126 mmol) and N-ethyldiisopropylamine (0.053 ml, 0.30 mmol) were added consecutively. The reaction mixture was stirred for 1 h. Preparative RP-HPLC with water (0.05% formic acid)/methanol as eluent gave the title compound (41 mg, 71%) as white solid. MS m/e: 456 ([M+H]+)

reactant | glycolic acid | 0.151 mmol, 11.5 mg | C(CO)(=O)O | C2H4O3
reactant | HATU | 0.151 mmol, 57.3 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | trans-8-Chloro-1-[4-(3-fluoro-pyridin-2-yl)-cyclohexyl]-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzo[e]azulene | 0.126 mmol, 50.0 mg | ClC1=CC2=C(N3C(=NN=C3CNC2)[C@@H]2CC[C@H](CC2)C2=NC=CC=C2F)C=C1 | C21H21ClFN5
reactant | N-ethyldiisopropylamine | 0.30 mmol, 0.053 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | trans-1-{8-Chloro-1-[4-(3-fluoro-pyridin-2-yl)-cyclohexyl]-4H,6H-2,3,5,10b-tetraaza-benzo[e]azulen-5-yl}-2-hydroxy-ethanone | 41 mg, 71% | ClC1=CC2=C(N3C(=NN=C3CN(C2)C(CO)=O)[C@@H]2CC[C@H](CC2)C2=NC=CC=C2F)C=C1 | C23H23ClFN5O2
